US06844362B2
5-[(2R)-2-({(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-(2-methoxybenzyl)-1H-indole-2-carboxamide
A solution of 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-(2-methoxybenzyl)-1H-indole-2-carboxamide (Preparation 1, 67 mg, 0.11 mmol) in a mixture of methanol (4.0 ml) and water (2.4 ml) was treated with ammonium fluoride (40 mg, 1.08 mmol) and the resulting suspension heated at 40° C. for a period of 16 hours. The solvent was removed in vacuo and the residue purified by flash column chromatography on silica gel eluting with dichloromethane:methanol 0.88 ammonia (95:5:0.5 changing to 85:15:1.5, by volume) to give the title compound as a colourless solid (38 mg).

reactant | 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-(2-methoxybenzyl)-1H-indole-2-carboxamide | 0.11 mmol, 67 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CN[C@@H](CC=1C=C2C=C(NC2=CC1)C(=O)NCC1=C(C=CC=C1)OC)C)C1=CC(=C(C=C1)O)CO | C35H47N3O5Si
reactant | ammonium fluoride | 1.08 mmol, 40 mg | [F-].[NH4+]
solvent | methanol | 4.0 ml | CO | CH4O
solvent | water | 2.4 ml | O | H2O
product | 5-[(2R)-2-({(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-(2-methoxybenzyl)-1H-indole-2-carboxamide | 38 mg | O[C@@H](CN[C@@H](CC=1C=C2C=C(NC2=CC1)C(=O)NCC1=C(C=CC=C1)OC)C)C1=CC(=C(C=C1)O)CO | C29H33N3O5
